US06713474B2
To a solution of pyrrolidin-3-ol (10.0 g, 0.11 mol) in dichloromethane (200 mL) was added triethylamine (22.2 g, 30.5 ml, 0.22 mol) followed by di-tert-butyldicarbonate (28.8 g, 0.13 mol) at 0° C. Warm to room temperature and stir at room temperature overnight. Quench with saturated aqueous citric acid (150 ml) and wash the organic layer with water, brine and water again (1×100 ml each). The organic layer was dried (sodium sulphate), filtered and evaporated to leave N-tert-butoxycarbonylpyrrolidin-3-ol (20.0g, 93% crude) as a golden oil.

reactant | pyrrolidin-3-ol | 0.11 mol, 10.0 g | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 0.22 mol, 30.5 ml, 22.2 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 0.13 mol, 28.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-tert-butoxycarbonylpyrrolidin-3-ol | 20.0g, 93% | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
